US05482692
An iron containing ZSM-5 catalyst was prepared by the following method: 7.6 g of the same HZSM-5 as that of Example 1 was heated in a stream of dry nitrogen to 375° C. After this temperature was maintained for 4 hours, the catalyst was cooled, in a stream of dry nitrogen, to room temperature. A solution of 0.5 g of ferrocene (dicyclopentadienyliron) in 30 g dry benzene was then added to the calcined zeolite and the slurry allowed to mix on a roller for about 16 hours. The benzene was allowed to evaporate at room temperature to give a benzene/ferrocene wetted zeolite. This wet solid was then heated to a temperature that did not exceed 100° C. in a vacuum oven so as to remove the residual benzene. This dry catalyst was then calcined in a stream of air at about 450° C. for about 6 hours to produce the desired iron containing catalyst, Catalyst A. The iron loading of this catalyst is about 1.8 wt. %.

reactant | iron | [Fe] | Fe
reactant | ferrocene | 0.5 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | benzene | 30 g | C1=CC=CC=C1 | C6H6
product | benzene ferrocene | C1=CC=CC=C1.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C6H6.2C5H5.Fe/c1-2-4-6-5-3-1;2*1-2-4-5-3-1;/h1-6H;2*1-5H;/q;2*-1;+2
